US09226922B2
At 0° C., NaH (60% in mineral oil, 1.172 g, 29.3 mmol) was added in portions to a suspension of methyl 3-bromo-1H-pyrazolo[4,3-c]pyridine-6-carboxylate (5.0 g, 19.53 mmol) in DMF (50 mL). The reaction mixture was stirred at 0° C. for 30 min, then a solution of triphenylmethyl chloride (6.53 g, 23.43 mmol) in DMF (50 mL) was added drop-wise. The reaction mixture was slowly warmed to room temperature overnight, quenched with H2O, and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (20% EtOAc/hexanes) to give methyl 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridine-6-carboxylate. MS ESI calc'd. for C27H21BrN3O2 [M+H]+ 498. found 498.

reactant | NaH | 29.3 mmol, 1.172 g | [H-].[Na+]
reactant | methyl 3-bromo-1H-pyrazolo[4,3-c]pyridine-6-carboxylate | 19.53 mmol, 5.0 g | BrC1=NNC2=C1C=NC(=C2)C(=O)OC | C8H6BrN3O2
reactant | triphenylmethyl chloride | 23.43 mmol, 6.53 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | methyl 3-bromo-1-trityl-1H-pyrazolo[4,3-c]pyridine-6-carboxylate | BrC1=NN(C2=C1C=NC(=C2)C(=O)OC)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C27H20BrN3O2
